US06114340
A mixture of 2-ethylhexyl vinylphosphonate (49.90 g), octadecylamine (40.43 g) and sodium hydride 0.10 g was stirred at 140° C. for 6 hours. Water (100 ml) and ethyl acetate (200 ml) were added. The organic phase was separated, dried with sodium sulfate, filtered and the solvent evaporated under reduced pressure to give di(2-ethylhexyl)[2-(octadecylamino)ethyl]phosphonate, as colourless liquid nD40 =1.4541.

reactant | 2-ethylhexyl vinylphosphonate | 49.90 g | C(=C)P(OCC(CCCC)CC)([O-])=O
reactant | octadecylamine | 40.43 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | Water | 100 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | di(2-ethylhexyl)[2-(octadecylamino)ethyl]phosphonate | C(C)C(COP(OCC(CCCC)CC)(=O)CCNCCCCCCCCCCCCCCCCCC)CCCC | C36H76NO3P
